US06221884B1
N-cyclopentyl-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide
Beginning with 7.4 mg (0.029 mMol) 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid and cyclopentylamine, 4.1 mg (41%) of the title compound were recovered.

reactant | 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid | 0.029 mMol, 7.4 mg | CN(C1CCC=2NC3=CC=C(C=C3C2C1)C(=O)O)C | C15H18N2O2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide | 4.1 mg, 41% | C1(CCCC1)NC(=O)C=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H27N3O
